### PR TITLE
[Merged by Bors] - feat(Algebra/MvPolynomial/Variables): add some lemmas about `vars`

### PR DESCRIPTION
**Pull request by SnkXyx**
These lemmas are used in #36103 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 1]
```diff
@@ -93,11 +93,29 @@ theorem vars_X [Nontrivial R] : (X n : MvPolynomial σ R).vars = {n} := by
...
+    s.support ⊆ p.vars := fun i hi ↦ by
+  contrapose! hi
+  apply Finsupp.notMem_support_iff.mpr
+  exact mem_support_notMem_vars_zero h hi
+
+theorem vars_eq_empty_iff_eq_C : p.vars = ∅ ↔ p = C (p.coeff 0) := by
+  refine ⟨fun h ↦ ?_, fun h ↦ h ▸ vars_C⟩
+  apply totalDegree_eq_zero_iff_eq_C.mp
+  apply Nat.eq_zero_of_le_zero
+  suffices p.degrees.card = 0 by exact this ▸ totalDegree_le_degrees_card p
```
Comment (Hagb) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
  suffices p.degrees.card = 0 from this ▸ totalDegree_le_degrees_card p
```

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 2]
```diff
@@ -93,11 +93,29 @@ theorem vars_X [Nontrivial R] : (X n : MvPolynomial σ R).vars = {n} := by
 theorem mem_vars (i : σ) : i ∈ p.vars ↔ ∃ d ∈ p.support, i ∈ d.support := by
   classical simp only [vars_def, Multiset.mem_toFinset, mem_degrees, mem_support_iff]
 
+theorem mem_vars_iff_degreeOf_ne_zero {i : σ} : i ∈ p.vars ↔ p.degreeOf i ≠ 0 := by
+  classical rw [degreeOf, vars_def, Multiset.mem_toFinset, Multiset.count_ne_zero]
```
Comment (dagurtomas) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
  classical simp [degreeOf, vars_def]
```

Comment (dagurtomas) [reply Mathlib/Algebra/MvPolynomial/Variables.lean]: Could you also rename the lemma above to a name in a similar style to this one (and deprecate the old name)

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 3]
```diff
@@ -93,11 +93,29 @@ theorem vars_X [Nontrivial R] : (X n : MvPolynomial σ R).vars = {n} := by
...
+  exact mem_support_notMem_vars_zero h hi
+
+theorem vars_eq_empty_iff_eq_C : p.vars = ∅ ↔ p = C (p.coeff 0) := by
+  refine ⟨fun h ↦ ?_, fun h ↦ h ▸ vars_C⟩
+  apply totalDegree_eq_zero_iff_eq_C.mp
+  apply Nat.eq_zero_of_le_zero
+  suffices p.degrees.card = 0 from this ▸ totalDegree_le_degrees_card p
+  classical rw [vars_def, Multiset.toFinset_eq_empty] at h
+  rw [h]
+  rfl
```
Comment (dagurtomas) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
  refine ⟨fun h ↦ ?_, fun h ↦ by rw [h]; simp⟩
  rw [← totalDegree_eq_zero_iff_eq_C]
  suffices p.degrees.card = 0 by grind [totalDegree_le_degrees_card p]
  classical rw [vars_def, Multiset.toFinset_eq_empty] at h
  simp_all
```

It is usually more readable to avoid `▸` in favour of tactics

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 4]
```diff
@@ -93,11 +93,29 @@ theorem vars_X [Nontrivial R] : (X n : MvPolynomial σ R).vars = {n} := by
...
 theorem mem_support_notMem_vars_zero {f : MvPolynomial σ R} {x : σ →₀ ℕ} (H : x ∈ f.support)
     {v : σ} (h : v ∉ vars f) : x v = 0 := by
   contrapose! h
   exact (mem_vars v).mpr ⟨x, H, Finsupp.mem_support_iff.mpr h⟩
 
+theorem support_subset_vars_of_mem_support {s : σ →₀ ℕ} (h : s ∈ p.support) :
+    s.support ⊆ p.vars := fun i hi ↦ by
+  contrapose! hi
+  apply Finsupp.notMem_support_iff.mpr
+  exact mem_support_notMem_vars_zero h hi
```
Comment (dagurtomas) [inline Mathlib/Algebra/MvPolynomial/Variables.lean]:
```suggestion
  contrapose! hi
  simp [mem_support_notMem_vars_zero h hi]
```

**Comment by SnkXyx** [comment]
-awaiting-author

File: Mathlib/Algebra/MvPolynomial/Variables.lean [hunk 5]
```diff
@@ -90,13 +90,30 @@ theorem vars_C : (C r : MvPolynomial σ R).vars = ∅ := by
...
-  exact (mem_vars v).mpr ⟨x, H, Finsupp.mem_support_iff.mpr h⟩
+  exact (mem_vars_iff_mem_support v).mpr ⟨x, H, Finsupp.mem_support_iff.mpr h⟩
+
+theorem support_subset_vars_of_mem_support {s : σ →₀ ℕ} (h : s ∈ p.support) :
+    s.support ⊆ p.vars := fun i hi ↦ by
+  contrapose! hi
+  simp [mem_support_notMem_vars_zero h hi]
+
+theorem vars_eq_empty_iff_eq_C : p.vars = ∅ ↔ p = C (p.coeff 0) := by
+  refine ⟨fun h ↦ ?_, fun h ↦ by rw [h]; simp⟩
```
Comment (dagurtomas) [inline Mathlib/Algebra/MvPolynomial/Variables.lean:112]:
```suggestion
  refine ⟨fun h ↦ ?_, fun h ↦ by simp [h]⟩
```
(untested)

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
